US04760083
3,3-Bis(4-pyridylmethyl)-1-phenylindolin-2-one dihydrochloride
3,3-Bis(4-pyridylmethyl)-1-phenylindolin-2-one (19 g) was converted to the dihydrochloride by treatment with 40 ml 25% hydrochloric acid in ethanol. To the mixture was added 50 ml isopropanol and the solution was heated to boiling. Boiling acetone was added until thick needles just started to form (total volume of solvents: 200-250 ml). The solution was allowed to cool to room temperature, then allowed to stand overnight at 0°. The solid was filtered and washed with cold isopropanol to yield 19.5 g (84%) of the title compound; m.p. 257°-8°. (Note: degree of drying has an effect on m.p. of the dihydrochloride; very slowly increasing the temperature of the melting point apparatus gives a melting point of 275°-276°). A second crop was obtained by evaporating the filtrate, dissolving the residue in isopropanol and adding approximately an equal volume of acetone; the mixture was allowed to sit overnight at room temperature, and then 6 hours at 0° C. to yield an additional 2.8 g, m.p. 252°-253°. Recrystallization yielded 2.4 g, of the second crop: m.p. 257°-258° C. The total dihydrochloride yield was 21.9 g (94%).

reactant | 3,3-Bis(4-pyridylmethyl)-1-phenylindolin-2-one | 19 g | N1=CC=C(C=C1)CC1(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)CC1=CC=NC=C1 | C26H21N3O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 3,3-Bis(4-pyridylmethyl)-1-phenylindolin-2-one dihydrochloride | 19.5 g, 84% | Cl.Cl.N1=CC=C(C=C1)CC1(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)CC1=CC=NC=C1 | InChI=1S/C26H21N3O.2ClH/c30-25-26(18-20-10-14-27-15-11-20,19-21-12-16-28-17-13-21)23-8-4-5-9-24(23)29(25)22-6-2-1-3-7-22;;/h1-17H,18-19H2;2*1H
